US08053454B2
To a mixture of 2-amino-3-chlorobenzonitrile (500 mg, 3.3 mmol), sodium azide (4.3 mmol, 1.3 eq.), and triethylamine hydrochloride (4.3 mmol, 1.3 eq.) in a sealed tube, 8 mL of toluene was added. The tube was tightly capped and the reaction was stirred and heated to 100° C. overnight. The mixture was cooled to room temperature, diluted with another 10 mL of toluene, transferred to a separatory funnel and washed 3×20 mL with water. The aqueous extractions were collected and acidified to a pH of 4 with concentrated HCl. The solid was collected by filtration, washed with acetonitrile, and dried under vacuum to afford 581 mg of 2-chloro-6-(1H-tetrazol-5-yl)aniline. MS (EI) for C7H6ClN5: 196 (MH+). Step 2: N-[2-Chloro-6-(1H-tetrazol-5-yl)phenyl]thiophene-2-carboxamide: To a solution of 2-chloro-6-(1H-tetrazol-5-yl)aniline (300 mg, 1.5 mmol) in 8 mL of DCM, DIPEA (3.1 mmol, 2.0 eq.) was added followed by thiophene-2-carbonyl chloride (2.3 mmol, 1.5 eq.). The reaction was stirred at room temperature overnight. The organic solution of the crude reaction mixture was extracted twice with aqueous HCl (0.1 M), twice with aqueous sodium hydroxide (0.1 M), and once with a saturated aqueous solution of sodium chloride. The basic aqueous extractions and final brine extraction were combined and acidified to a pH of 4 with concentrated HCl. The resulting solid was collected by filtration. The material was then washed with acetonitrile, and dried under vacuum to afford 33 mg of desired product. 1H-NMR (400 MHz, d6-DMSO): δ 10.32 (s, 1H), 7.96 (d, 1H), 7.87-7.81 (m, 3H), 7.58 (t, 1H), 7.23 (t, 1H). MS (EI) C12H8ClN5OS: 306 (M+H).

reactant | 2-amino-3-chlorobenzonitrile | 3.3 mmol, 500 mg | NC1=C(C#N)C=CC=C1Cl | C7H5ClN2
reactant | sodium azide | 4.3 mmol, 1.3 eq. | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 4.3 mmol, 1.3 eq. | Cl.C(C)N(CC)CC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-6-(1H-tetrazol-5-yl)aniline | 581 mg | ClC1=C(N)C(=CC=C1)C1=NN=NN1 | C7H6ClN5
